US06992094B1
6-(3-Hydroxy-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthylselanyl)nicotinic acid
In a manner similar to that of Example 2, by reaction of 400 mg (0.92 mmol) of ethyl 6-(3-hydroxy-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthylselanyl)nicotinate with 357 mg (8.9 mmol) of sodium hydroxide in a THF/ethanol mixture (20 ml/20 ml), 60 mg (16%) of a yellow powder are obtained. m.p.: 250° C.

reactant | ethyl 6-(3-hydroxy-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthylselanyl)nicotinate | 0.92 mmol, 400 mg | OC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)[Se]C1=NC=C(C(=O)OCC)C=C1 | C22H27NO3Se
reactant | sodium hydroxide | 8.9 mmol, 357 mg | [OH-].[Na+]
solvent | THF ethanol | 20 ml | C1CCOC1.C(C)O
product | 6-(3-Hydroxy-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthylselanyl)nicotinic acid | OC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)[Se]C1=NC=C(C(=O)O)C=C1 | C20H23NO3Se
